*=========================================================
* TASK 2 - SRAM READ DISTURB
* CASE 1: ORIGINAL ACCESS TRANSISTORS
* MA1 = MA2 = 0.16um
*=========================================================

.include 45nm_bulk.txt

.param VDD=1.1 VBL=1.1

* Supply
Vdd vdd 0 'VDD'

* Wordline
Vwl wl 0 PWL(0 0 1n 0 1.05n 'VDD')

* Cross-coupled inverter 1
MP1 qb q  vdd vdd pmos W=0.15u L=0.045u
MN1 qb q  0   0   nmos W=0.20u L=0.045u

* Cross-coupled inverter 2
MP2 q  qb vdd vdd pmos W=0.15u L=0.045u
MN2 q  qb 0   0   nmos W=0.20u L=0.045u

* Access transistors
MA1 bl  wl q  0   nmos W=0.16u L=0.045u
MA2 blb wl qb 0   nmos W=0.16u L=0.045u

* Bitline capacitances
Cbl  bl  0 180f IC='VBL'
Cblb blb 0 180f IC='VBL'

* Initial SRAM state
.ic v(q)=0 v(qb)='VDD'

.control

* Transient simulation
tran 5p 4n uic

* Plot storage node q
plot v(q)

* Plot both storage nodes if required
plot v(q) v(qb)

* Measure maximum voltage reached by q
meas tran qmax MAX v(q) FROM=1n TO=4n

* Save data
wrdata task2_original.csv v(bl) v(blb) v(q) v(qb)

.endc

.end